US06495581B1
A mixture of E-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-phenylpropionic acid (600 mg), 1-hydroxybenzotriazole ammonia complex (260 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (328 mg) and N,N-dimethylformamide (5 ml) was stirred at room temperature for 15 hours. Water was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed successively with an aqueous solution of potassium carbonate and an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The remaining crystals were recrystallized from tetrahydrofuran-hexane to obtain E-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-3-phenylpropanamide (512 mg, yield 86%) as colorless crystals. m.p. 164-165° C.

reactant | E-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-phenylpropionic acid | 600 mg | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CO\N=C\2/CC(=CC=C2)C(C(=O)O)C)C=C1 | C27H26N2O5
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 328 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | Water | O | H2O
product | E-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-3-phenylpropanamide | 512 mg, yield 86% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CO\N=C(/CC(=O)N)\C2=CC=CC=C2)C=C1 | C27H25N3O4
